US07199244B2
Preparation II—7-cyano-4-chromanone
7-[[(Trifluoromethyl)sulfonyl]oxy]-4-chromanone (27.8 g, 94 mmol) and PPh3 (2.5g, 9.6 mmol) were dissolved in degassed CH3CN (350 mL). KCN (6.8 g, 105 mmol), (PPh3)2NiBr2 (3.5 g, 4.7 mmol) and acid washed (stirred in 0.5 N HCl 1 min, washed successively with H2O, acetone, and Et2O) zinc dust (2.0 g, 31 mmol) were added and the reaction was purged with N2. The reaction was heated in a 60° C. bath for 6 h. The reaction was cooled, poured into H2O (400 mL) and extracted with EtOAc (3×300 mL). The organic layers were combined and washed with H2O (200 mL) and brine (150 mL). The solution was dried over MgSO4, filtered and concentrated in vacuo to provide a residue which was purified on a plug of silica (CH2Cl2 eluant) to provide the title compound.

reactant | 7-[[(Trifluoromethyl)sulfonyl]oxy]-4-chromanone | 94 mmol, 27.8 g | FC(S(=O)(=O)OC1=CC=C2C(CCOC2=C1)=O)(F)F | C10H7F3O5S
reactant | PPh3 | 9.6 mmol, 2.5g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | KCN | 105 mmol, 6.8 g | [C-]#N.[K+]
solvent | CH3CN | 350 mL | CC#N | C2H3N
solvent | HCl | 0.5 N | Cl | ClH
solvent | H2O | O | H2O
solvent | acetone | CC(=O)C | C3H6O
solvent | Et2O | CCOCC | C4H10O
catalyst | zinc | 31 mmol, 2.0 g | [Zn] | Zn
product | 7-cyano-4-chromanone | C(#N)C1=CC=C2C(CCOC2=C1)=O | C10H7NO2
